US07714010B2
c) 1,3,3-Trimethyl-5-methylamino-6-nitro-1,3-dihydro-indol-2-one
The crude N-methyl-N-(1,3,3-trimethyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide is dissolved in hydrochloric acid (6 N; 8 ml) and heated at reflux for 3 h. The mixture is poured into ice-water and the resulting precipitate collected by filtration. After drying the compound (176 mg) is obtained.

reactant | N-methyl-N-(1,3,3-trimethyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide | CN(C(C)=O)C=1C=C2C(C(N(C2=CC1[N+](=O)[O-])C)=O)(C)C | C14H17N3O4
solvent | hydrochloric acid | 6 N, 8 ml | Cl | ClH
product | 1,3,3-Trimethyl-5-methylamino-6-nitro-1,3-dihydro-indol-2-one | CN1C(C(C2=CC(=C(C=C12)[N+](=O)[O-])NC)(C)C)=O | C12H15N3O3
